Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
EtOH Withdrawal.
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of EtOH 
abuse complicated by withdrawal seizures in the past who 
presented to ___ for acute alcohol withdrawal. While 
there, she was given 20 mg IV valium, 2 mg IV ativan x 2, IVF, 
and K/Mg repletion. Patient had improvement in HR, but felt that 
she warranted ICU admission so she was transferred to ___ 
given they had no further ICU beds. Additionally, she was noted 
to have a QTc of 600 which they were concerned about as well.  

In the ___, she was given 10 mg diazepam and 2mg lorazepam with 
good effect. Initial vitals were 97.8 117 144/99 22 99%. An EKG 
was performed which showed sinus tach @ rate 103, normal axis, 
mildly prolonged QTc (457) without ST-T wave changes. CIWA in ___ 
___. She was admitted to medicine for further evaluation.

On the floor, initial vitals were: 98.3 130/86 107 18 97% RA. 

Patient states that her last drink was 2PM yesterday. She 
typically drinks ___ of a fifth of vodka per day. Though also 
somestimes between ___ nips per day. She has been hospitalized 
at least 3 times in he last year, but not sinec ___. She 
states that he drinking slowed down after her admission ___ 
and she had only been drinking about ___ drinks per night until 
a few weeks ago. She has had significant family stressors 
recently (father an alcoholic, financial stress), which caused 
her drinking to increase. Has attended AA meetings in the past, 
but felt that they were not particualrly helpful. She found that 
seeing a counselor was helpful, but has been having trouble 
seeing the counselor recently due to insurance issues. She has 
had issues with alcohol for the last ___ years. 
 
Past Medical History:
- Alcohol Abuse complicated by withdrawal seizures and DTs
- Anxiety
- Depression, previous suicide attempt > 6 mo ago
- Optic Neuritis
 
Social History:
___
Family History:
Father alcoholic. Otherwise, NC.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==================
VS: 98.3 130/86 107 18 97% RA. 
GENERAL: Alert, oriented, no acute distress, resting tremor  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Warm, dry 
NEURO: A&Ox3, CN II-XII intact, strength ___ in all four 
extremities, resting tremor

DISCHARGE PHYSICAL EXAM
==================
VS: 98.9 98.9 124/88 85 18 99% RA
CIWA: ___ 4 3
GENERAL: Alert, oriented, no acute distress, improved resting 
tremor  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
ABD: Soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Warm, dry 
NEURO: A&Ox3, CN II-XII intact, strength ___ in all four 
extremities, no asterixis
 
Pertinent Results:
ADMISSION LABS
===========
___ 11:30AM BLOOD WBC-7.2 RBC-4.19* Hgb-12.5 Hct-38.1 
MCV-91 MCH-29.9 MCHC-32.9 RDW-16.6* Plt ___
___ 11:30AM BLOOD Neuts-74.2* Lymphs-16.6* Monos-8.7 
Eos-0.2 Baso-0.3
___ 11:30AM BLOOD Glucose-130* UreaN-7 Creat-0.7 Na-141 
K-3.4 Cl-98 HCO3-22 AnGap-24*
___ 11:30AM BLOOD Calcium-8.8 Phos-2.5* Mg-1.8

___ 06:07PM URINE Color-DkAmb Appear-Cloudy Sp ___
___ 06:07PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-MOD
___ 06:07PM URINE RBC->182* WBC-0 Bacteri-FEW Yeast-NONE 
Epi-0

DISCHARGE LABS
===========
___ 06:15AM BLOOD WBC-4.3 RBC-3.69* Hgb-10.9* Hct-32.9* 
MCV-89 MCH-29.6 MCHC-33.2 RDW-16.7* Plt ___
___ 06:15AM BLOOD Glucose-72 UreaN-5* Creat-0.6 Na-138 
K-3.3 Cl-101 HCO3-27 AnGap-13
___ 06:15AM BLOOD Albumin-3.3* Calcium-8.1* Phos-2.2* 
Mg-1.5* Iron-166*
___ 03:30PM BLOOD ___ PTT-30.4 ___
___ 06:15AM BLOOD ALT-141* AST-403* LD(LDH)-442* AlkPhos-77 
TotBili-1.5
___ 06:15AM BLOOD calTIBC-365 VitB12-517 Folate-7.3 
___ Ferritn-67 TRF-281
___ 06:15AM BLOOD Ret Aut-1.5

MICRO
=====
___ 6:07 pm URINE      Source: ___. 

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
 
Brief Hospital Course:
___ PMH alcohol dependance c/b withdrawal seizures and DTs 
presents with ETOH withdrawal.
 
ACUTE ISSUES
# ETOH withdrawal: Patient with complicated withdrawal history 
including seizures. Last drink 2 pm ___. Patient presented to 
___ with nausea, vomiting, inability to tolerate PO. 
Patient given multiple doses of IV ativan and diazepam in ___ 
and subsequently transferred to ___ ___. Upon arrival to the 
medicine floor, patient placed on CIWA protocol with diazepam 10 
mg PO Q4H PRN CIWA > 10. She was given IVF, thiamine, folate. 
Throughout her stay her CIWA scores steadily declined and the 
patient's symptoms greatly improved. No seizure or other acute 
withdrawal issues on this admission. She was seen by social work 
prior to discharge. She plans to re-establish care with her 
outpatient counselor, who has helped her maintain sobriety in 
the past. 

# Metabolic acidosis: Patient presented with elevated AG at 20 
on OSH labs and 21 on ___ admission labs + ketones in urine 
c/w with alcoholic ketoacidosis. Following IVF resuscitation, AG 
closed at 10.

# Alcoholic hepatitis: LFTs elevated on OSH labs with 2:1 
AST:ALT ratio of ~ 300:150. On repeat labs at ___, AST 403 and 
ALT 141. LFT elevation likely secondary to known alcoholic 
hepatitis, which is chronic. ___ score was 10 and ___ 
score was 5; therefore, patient would not likely benefit from 
corticosteroids or pentoxifylline at this time. Patient 
encouraged to abstain from alcohol. Plans to help her in this 
endeavor were discussed prior to discharge with the patient and 
social work. 
 
# Hematuria: Patient states that hematuria started on day of 
hospitalization. She has had this previously during other 
episodes of ETOH withdrawal. On day of discharge, she continued 
to note bloody urine in the AM, which progressively cleared by 
the time she was discharged. Denied dysuria, frequency, or 
suprapubic/abd pain. UA was sent, which showed > 182 RBC, mod 
___, no WBC. Urine culture was also sent, which was pending at 
discharge, but subsequently returned growing > 100,000 E. coli. 
Though this would suggest UTI as cause for hematuria, patient 
was otherwise asymptomatic. Other considerations for hematuria 
included menstrual bleeding, kidney stone, or 
glomerulonephritis. The patient has had issues with DUB, but 
stated that she was fairly certain that this bleeding was, in 
fact, from a urinary source not vaginal. She underwent straight 
cath to allow for discrimination of source of blood, but 
unfortunately, her urine had cleared by that time and repeat 
urine sediment was bland. In terms of possibility of 
nephrolithiasis, she denied any pain, though kidney stone would 
make sense in the setting of dehydration from ETOH withdrawal 
and frequent N/V. Finally, as mentioned earlier, 
glomerulonephritis was a consideration, though Cr not elevated, 
she did not have significant proteinuria, edema, or HTN, and 
hematuria cleared much quicker than what would be 
characteristic. Please continue to work this up further as an 
outpatient. 

# Anemia: Patient with Hgb of 10.9 at discharge with MCV 89. 
Iron studies show ACD/inflammation. B12 and folate replete. No 
evidence of hemolysis, though LDH elevated. Retic count 
suppressed given degree of anemia. Therefore, anemia is most 
likely secondary to marrow suppression in the setting of chronic 
alcohol use. 

TRANSITIONAL ISSUES
- Please monitor and further work-up anemia. Pending at 
discharge: iron studies, B12, folate, haptoglobin, LDH. 
Reticulocyte count low at 1.5. 
- Please work-up question of hematuria further as an outpatient 
and consider cystoscopy, if persists. Patient with bland urine 
sediment by the time her urine was assessed.
- Medications added: MVI, thiamine, folate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Alcohol withdrawal
Secondary: 
- Alcoholic hepatitis
- Metaobolic acidosis
- Anemia
- Hematuria 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

You were admitted to the hospital for alcohol withdrawal, since 
you have a history of withdrawal seizures. While you were here 
you were monitored carefully and given medications for your 
withdrawal symptoms. Your symptoms slowed down and you started 
to feel better, so you were able to be discharged home. 

Please note that you have some lab abnormalities, including 
anemia, low platelets, and liver function test elevation. These 
issues should be followed-up by your primary care physician. We 
have set you up with a new PCP and the appointment is listed 
below. 

Please try to refrain alcohol. As per your discussion with the 
social worker, please try to re-establish care with your 
counselor to continue discussion about alcohol abstinence. 
 
Followup Instructions:
___